US06451814B1
4-(4-{2-[2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid [4-(3,4-dimethoxy-phenyl)-butyl]-amide
4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-[4-(3,4-dimethoxyphenyl)butyl]-1-piperidinecarboxamide (0.40 g, 0.47 mmol) was reacted according to Procedure H (eluant: 10:1 chloroform-methanol containing 2% triethylamine) to give the title compound (0.26 g, 0.42 mmol).

reactant | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-[4-(3,4-dimethoxyphenyl)butyl]-1-piperidinecarboxamide | 0.47 mmol, 0.40 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCCCCC3=CC(=C(C=C3)OC)OC)C=C2)O)C=C1 | C51H66N4O6Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid [4-(3,4-dimethoxy-phenyl)-butyl]-amide | 0.42 mmol, 0.26 g | COC=1C=C(C=CC1OC)CCCCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNCC(COC1=CC=C(C=C1)O)O | C35H48N4O6
